US04018802
Step E. Preparation of 8-methylsulfonyl-12-hydroxy-16-heptadecenoic acid
The synthesis of this compound is carried out as in Example 3, Step E, except that the methyl 8-methylsulfonyl-12-acetoxyheptadecenoate is replaced by an equivalent quantity of 8-methylsulfonyl-12-acetoxy-16-heptadecenoate.

reactant | methyl 8-methylsulfonyl-12-acetoxyheptadecenoate | CS(=O)(=O)C(CCCCC=CC(=O)OC)CCCC(CCCCC)OC(C)=O | C21H38O6S
reactant | 8-methylsulfonyl-12-acetoxy-16-heptadecenoate | CS(=O)(=O)C(CCCCCCC(=O)[O-])CCCC(CCCC=C)OC(C)=O
product | 8-methylsulfonyl-12-hydroxy-16-heptadecenoic acid | CS(=O)(=O)C(CCCCCCC(=O)O)CCCC(CCCC=C)O | C18H34O5S
